US04237019
3.4 Parts of impure 1-amino-5-cyano-4-thiocyanatonaphthalene were then deaminated by the method described in Example 2 for deamination of 1-amino-5-nitro-4-thiocyanatonaphthalene. The crude product, after drowning out into water, was filtered off, washed well, dried and recrystallised from ethanol to yield 0.62 parts of pure 1-cyano-8-thiocyanatonaphthalene, m.pt 129.5°-130.5° C. The I.R. spectrum contained a band at 2220 cm-1 due to the cyano group and a band at 2160 cm-1 due to the thiocyanate group.

reactant | 1-amino-5-cyano-4-thiocyanatonaphthalene | NC1=CC=C(C2=C(C=CC=C12)C#N)SC#N | C12H7N3S
reactant | 1-amino-5-nitro-4-thiocyanatonaphthalene | NC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])SC#N | C11H7N3O2S
solvent | water | O | H2O
product | 1-cyano-8-thiocyanatonaphthalene | C(#N)C1=CC=CC2=CC=CC(=C12)SC#N | C12H6N2S
